US06624159B2
Benzyl 2-(Hydroxymethyl)-1-indolinecarboxylate [G.3]
A solution containing 2,3-dihydro-1H-indol-2-ylmethanol (Preparation 5, 4.31 g) and THF (60 mL) is added to a flask containing sodium bicarbonate (24.27 g) and water (15 mL). Benzylchloroformate (4.5 mL) is slowly added. Once addition is complete, the mixture is stirred overnight. The crude mixture is filtered and washed with a large amount of CH2Cl2. The filtrate is poured into water and the separated organic phase is washed with 5% HCl and brine. The organic layer is dried (Na2SO4), filtering, and concentrated to give a yellow oil. The crude product is chromatographed eluting with EtOAc/heptane (1/1) to give 8.11 g (99%) of the title compound as a pale colored oil. Physical characteristics: MS (ESI+) m/z 284 (M+H)+.

reactant | 2,3-dihydro-1H-indol-2-ylmethanol | 4.31 g | N1C(CC2=CC=CC=C12)CO | C9H11NO
reactant | THF | 60 mL | C1CCOC1 | C4H8O
reactant | sodium bicarbonate | 24.27 g | C([O-])(O)=O.[Na+]
reactant | Benzylchloroformate | 4.5 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | water | 15 mL | O | H2O
product | Benzyl 2-(Hydroxymethyl)-1-indolinecarboxylate | 8.11 g, 99% | OCC1N(C2=CC=CC=C2C1)C(=O)OCC1=CC=CC=C1 | C17H17NO3
